US07335658B2
6-[4-(1-METHYL-1H-PYRROLE-2-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 1-methyl-1H-pyrrole-2-carboxylic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)-amide, the title compound was obtained as a white powder (51.8% yield). 1H NMR (500 MHz, CDCl3) δ 8.07, 8.01, 7.00, 6.75, 6.40, 6.12, 4.00-3.80, 3.58, 1.52, 0.76, 0.48, 0.10. MS (ES+) m/z 383 (M+1).

reactant | 1-methyl-1H-pyrrole-2-carboxylic acid | CN1C(=CC=C1)C(=O)O | C6H7NO2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)-amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(1-METHYL-1H-PYRROLE-2-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C=1N(C=CC1)C | C20H26N6O2
